US09402841B2
Step B: (S)-tert-butyl 3-((7-chloro-3-(hydrazinyl(imino)methyl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate
To a mixture of (S)-tert-butyl 3-((7-chloro-3-cyanoisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate (300 mg, 1.61 mmol) in MeOH (4 mL) was added NH2NH2.H2O (5 mL). The resulting mixture was heated to reflux for 2 hours. The solvents were removed in vacuo to give the title compound, which was used without further purification. ESI-MS m/z [M+H]+ 406.1.

reactant | (S)-tert-butyl 3-((7-chloro-3-cyanoisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | 1.61 mmol, 300 mg | ClC1=CC=C2C=C(N=C(C2=C1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C#N | C19H20ClN3O3
reactant | NH2NH2.H2O | 5 mL | NN.O
solvent | MeOH | 4 mL | CO | CH4O
product | (S)-tert-butyl 3-((7-chloro-3-(hydrazinyl(imino)methyl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | ClC1=CC=C2C=C(N=C(C2=C1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C(=N)NN | C19H24ClN5O3
